US04182906
In a 200 ml flask, there were charged (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid (30.0 g) and toluene (70 g), and thionyl chloride (24.0 g) was added thereto from a dropping funnel at 70° to 80° C. over a period of 30 minutes with stirring. After completion of the addition, stirring was continued for an additional 2.5 hours at the same temperature. Thereafter, the reaction mixture was cooled to 0° C., and boron trichloride (0.94 g) was added thereto, followed by stirring for 30 minutes. Then, the catalyst was removed from the reaction mixture, the solvent was recovered by distillation, and the residue was distilled to obtain racemized 2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid chloride (28.6 g) having a boiling point of 55°-62° C./0.3 mmHg. The proportion of the optical isomers in the resulting product was determined by gas chromatography. The result was as follows: (+)-trans, 46.8%; (-)-trans, 46.8%; (+)-cis, 3.2%; (-)-cis, 3.2%.

reactant | (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid | 30.0 g | CC1([C@H]([C@@H]1C=C(C)C)C(=O)O)C | C10H16O2
reactant | thionyl chloride | 24.0 g | S(=O)(Cl)Cl | Cl2OS
catalyst | boron trichloride | 0.94 g | B(Cl)(Cl)Cl | BCl3
solvent | toluene | 70 g | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid chloride | 28.6 g | CC1(C(C1C=C(C)C)C(=O)Cl)C | C10H15ClO
